US07332499B2
To a solution of N-[(1R)-1-(3,3′-difluoro-2′-hydroxy-1,1′-biphenyl-4-yl)ethyl]-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide (125 mg, 0.292 mmol) in acetic acid (1 ml) was added N-chlorosuccinimide (39 mg, 0.292 mmol) and the solution was heated to 90 C for 2 h. After this time, the mixture was concentrated in vacuo and purified by column chromatography eluting with a 0-10% EtOAc/CH2Cl2 gradient to give N-[(1R)-1-(5′-chloro-3,3′-difluoro-2′-hydroxy-1,1′-biphenyl-4-yl)ethyl]-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide. Low resolution mass spectrometry: (M+H+)=462.9. 1H NMR (400 MHz, CDCl3) δ 7.26-7.34 (m, 3H), 7.12 (dd, 1H, J=9.9 and 2.4 Hz), 7.08 (s, 1H), 6.98 (s, 1H), 6.59 (d, 1H, J=8.6 Hz), 5.38-5.51 (br, 1H), 5.23 (quin, 1H, J=7.2 Hz), 1.55-1.70 (m, 2H), 1.52 (d, 3H, 7.2 Hz) and 1.08-1.21 (m, 2H) ppm.

reactant | N-[(1R)-1-(3,3′-difluoro-2′-hydroxy-1,1′-biphenyl-4-yl)ethyl]-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide | 0.292 mmol, 125 mg | FC=1C=C(C=CC1[C@@H](C)NC(=O)C1(CC1)NC(C(F)(F)F)=O)C1=C(C(=CC=C1)F)O | C20H17F5N2O3
reactant | N-chlorosuccinimide | 0.292 mmol, 39 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | N-[(1R)-1-(5′-chloro-3,3′-difluoro-2′-hydroxy-1,1′-biphenyl-4-yl)ethyl]-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide | ClC=1C=C(C(=C(C1)C1=CC(=C(C=C1)[C@@H](C)NC(=O)C1(CC1)NC(C(F)(F)F)=O)F)O)F | C20H16ClF5N2O3
